US09416132B2
84. N-(trans-4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexyl)-2-morpholinoacetamide (EX. 8-84)
A mixture of 2-chloro-N-(trans-4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexyl)acetamide (50 mg, 0.12 mmol), morpholine (0.3 mL) and DIPEA (0.2 mL) in CH2Cl2 (0.6 mL) was stirred at 50° C. for 3 h. LCMS showed the reaction was complete. The mixture was concentrated in vacuo. The residue was partitioned between water (100 mL) and EtOAc (50 mL). The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by prep-HPLC to give EX. 8-84 (9.6 mg, 17%) as a white solid.

reactant | 2-chloro-N-(trans-4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexyl)acetamide | 0.12 mmol, 50 mg | ClCC(=O)N[C@@H]1CC[C@H](CC1)NC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)Cl | C20H21Cl2N5O
reactant | morpholine | 0.3 mL | N1CCOCC1 | C4H9NO
reactant | DIPEA | 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 0.6 mL | C(Cl)Cl | CH2Cl2
product | N-(trans-4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexyl)-2-morpholinoacetamide | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)N[C@@H]2CC[C@H](CC2)NC(CN2CCOCC2)=O | C24H29ClN6O2
